US05308857
A mixture of 4-(5-acetylaminomethylfuran-2-yl)-2-(3-benzoylthioureido)thiazole (39.5 g) in ethanol (400 ml) and conc. hydrochloric acid (87.1 ml) was heated under reflux for 15 hours and then the mixture was evaporated in vacuo. To the residue was added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 9.5 with a potassium carbonate. The isolated precipitate was collected by filtration to give 4-(5-aminomethylfuran-2-yl)-2-thioureidothiazole (10.1 g).

reactant | 4-(5-acetylaminomethylfuran-2-yl)-2-(3-benzoylthioureido)thiazole | 39.5 g | C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C18H16N4O3S2
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 87.1 ml | Cl | ClH
product | 4-(5-aminomethylfuran-2-yl)-2-thioureidothiazole | 10.1 g | NCC1=CC=C(O1)C=1N=C(SC1)NC(=S)N | C9H10N4OS2
